US07855193B2
2-(5-Benzylbenzofuran-2-yl)-5-formylbenzonitrile (Step 4, Scheme 5)
A suspension of 2-(5-Benzylbenzofuran-2-yl)-5-(hydroxymethyl)benzonitrile (0.03 g, 0.09 mmol), Molecular sieves 4A (0.2 g), TPAP (0.0016 mg, 0.004 mmol) and N-morpholino oxide (0.02 g, 0.18 mmol) in acetonitrile was stirred for 1 hour and then filtered through celite to obtain title compound in 93% yield (step 4, Scheme 5): 1H NMR (400 MHz, CDCl3) δ 10.05 (s, 1H), 8.25 (s, 1H), 8.24 (d, 1H), 8.14 (d, 1H), 7.84 (s, 1H), 7.45 (m, 2H), 7.38-7.18 (m, 6H), 4.06 (s, 2H).

reactant | 2-(5-Benzylbenzofuran-2-yl)-5-(hydroxymethyl)benzonitrile | 0.09 mmol, 0.03 g | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C#N)C=C(C=C2)CO)C1 | C23H17NO2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | TPAP | 0.004 mmol, 0.0016 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 2-(5-Benzylbenzofuran-2-yl)-5-formylbenzonitrile | 93% yield | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C#N)C=C(C=C2)C=O)C1 | C23H15NO2
